US07393868B2
Heat (3-chloro-4-cyano-phenoxy)-acetic acid ethyl ester (120 mg, 0.50 mmol), propane-2-sulfonic acid {2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-thiophen-3-yl}-amide (204 mg, 0.50 mmol), 2 M aqueous Na2CO3 solution (0.75 mL) and Pd(PCy3)2Cl2(55.4 mg, 0.075 mmol) in 1,4-dioxane (3.0 mL) to 80° C. under nitrogen atmosphere for 20 h. Pour into 0.1 M HCl solution and adjust pH to 7, then extract with diethyl ether (3×50 mL) and dry the combined organic phases (MgSO4) and concentrate to furnish a crude mixture as a yellowish solid. Purification by flash chromatography (Silica gel-Hexane /diethyl ether 1:1) yields 201 mg, 0.42 mmol (83%) of {6-Cyano-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-3-yloxy}-acetic acid ethyl ester as a pale yellow solid.

reactant | (3-chloro-4-cyano-phenoxy)-acetic acid ethyl ester | 0.50 mmol, 120 mg | C(C)OC(COC1=CC(=C(C=C1)C#N)Cl)=O | C11H10ClNO3
reactant | propane-2-sulfonic acid {2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-thiophen-3-yl}-amide | 0.50 mmol, 204 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C)C | C19H26BNO4S2
reactant | Na2CO3 | 2 M, 0.75 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 0.1 M | Cl | ClH
solvent | 1,4-dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
product | {6-Cyano-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-3-yloxy}-acetic acid ethyl ester | 0.42 mmol, 201 mg, 83% | C(C)OC(COC=1C=C(C(=CC1)C#N)C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C)=O | C24H24N2O5S2
